US20010014696A1
Preparation of Oligomers of (R)-3-hydroxybutyric Acid (R)-3-hydroxybutyrate)
(R)-3-hydroxybutyric acid (Fluka-5.0 g: 0.048 mole), p-toluene sulphonic acid (0.025 g) and benzene (100 ml) were stirred under reflux within a Dean-Stark trap arrangement for 24 hours. The reaction mixture was cooled and the benzene evaporated in vacuo (0.5 mm Hg). 4.4 g of colourless oil was obtained of which a 20 mg sample was converted to the methyl ester for analysis of number of monomer repeats using NMR. These studies show that the product is a mixture of oligomers of D-β-hydroxybutyrate of average number of repeats 3.75, being mainly a mixture of trimers, tetramers and pentamers with the single most abundant material being the tetramer. The product mixture was soluble in 1 equivalent of sodium hydroxide.

reactant | D-β-hydroxybutyrate | C[C@H](CC(=O)O)O | C4H8O3
reactant | sodium hydroxide | 1 equivalent | [OH-].[Na+]
product | (R)-3-hydroxybutyric Acid (R)-3-hydroxybutyrate | O[C@@H](CC(=O)O)C.O[C@@H](CC(=O)O)C | 2C4H8O3
